US07053255B2
(2) Synthesis of 9-(3-bromophenyl)phenanthrene
Under an atmosphere of argon, 3-bromoiodobenzene (7.0 g, 25 mmole), phenanthreneboronic acid (5.0 g, 23 mmole) and tetrakis-(triphenylphosphine)palladium(0) (0.5 g, 0.43 mmole, 1.7% Pd) were dissolved into toluene (100 ml). To the obtained solution, an aqueous solution of sodium carbonate (7.3 g, 69 mmole, 3 eq/35 ml) was added and the resultant solution was heated under refluxing for 10 hours and left standing for one night. The formed organic layer was separated, washed with a saturated aqueous solution of sodium chloride (50 ml) and dried with anhydrous magnesium sulfate. Then, the solvent was removed by distillation and a yellow oil was obtained. The obtained oil was purified by the column chromatography (silica gel/hexane, hexane+3% dichloromethane and hexane+5% dichloromethane, successively) and white needle crystals (6.5 g, 85%) were obtained.

reactant | 3-bromoiodobenzene | 25 mmole, 7.0 g | BrC=1C=C(C=CC1)I | C6H4BrI
reactant | phenanthreneboronic acid | 23 mmole, 5.0 g | C1(=CC=CC=2C3=CC=CC=C3C=CC12)B(O)O | C14H11BO2
reactant | sodium carbonate | 69 mmole, 35 ml, 7.3 g, 3 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 9-(3-bromophenyl)phenanthrene | 6.5 g, 85% | BrC=1C=C(C=CC1)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C20H13Br
